US04154737
A flask was equipped as in Example 1. To a solution of maleic anhydride (3.64 parts) in 10.6 parts acetone was added a solution of 1 part ethylenediamine, 0.61 part triethylamine and 1.5 parts acetone over a 25-minute period. The resulting reaction mixture contained white solids and was maintained at 40° C. for 30 minutes. Magnesium chloride hexahydrate (0.15 part) and 4.6 parts acetic anhydride were added all at once. The reaction temperature was raised to 50° C. and held there for 2.5 hours. The homogeneous reaction mixture was cooled and 25 parts water added. The precipitated product was filtered by vacuum filtration, washed with water, and dried in a vacuum oven. A 27% yield of N,N'-ethylenedimaleimide, m.p. 193°-194° C., was obtained.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | Magnesium chloride hexahydrate | O.O.O.O.O.O.[Cl-].[Mg+2].[Cl-]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N,N'-ethylenedimaleimide | 27% yield | C(CN1C(C=CC1=O)=O)N1C(C=CC1=O)=O | C10H8N2O4
